US09101616B2
Step-1: ethyl 2-(5-cyano-1H-benzo[d]imidazol-2-yl)cyclopropanecarboxylate
To a mixture of 3,4-diaminobenzonitrile (326 mg, 2.45 mmol), trans-2-(ethoxycarbonyl)cyclopropanecarboxylic acid (323 mg, 2.04 mmol), and triethylamine (1.44 mL, 10.2 mmol) in DMF (10 mL) was added HBTU (1.01 g, 2.66 mmol). After stirring at room temperature for 3 h, the mixture was poured into water, and the aqueous phase was extracted with EtOAc twice. The combined organic layer was dried over sodium sulfate and concentrated in vacuo. To the residue was added acetic acid (10 mL), and the mixture was stirred at 90° C. for 12 h. After cooling to room temperature, the solvent was removed in vacuo. The residue was poured into saturated sodium bicarbonate aqueous solution, and the aqueous layer was extracted with EtOAc twice. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate to give 210 mg (40%) of the title compound as a white amorphous:

reactant | 3,4-diaminobenzonitrile | 2.45 mmol, 326 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | trans-2-(ethoxycarbonyl)cyclopropanecarboxylic acid | 2.04 mmol, 323 mg | C(C)OC(=O)[C@H]1[C@@H](C1)C(=O)O | C7H10O4
reactant | triethylamine | 10.2 mmol, 1.44 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 2.66 mmol, 1.01 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ethyl 2-(5-cyano-1H-benzo[d]imidazol-2-yl)cyclopropanecarboxylate | 210 mg, 40% | C(#N)C1=CC2=C(NC(=N2)C2C(C2)C(=O)OCC)C=C1 | C14H13N3O2
